US04760163
using isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-ethylvinyl]ureido}-benzoate with sodium isopropylate in isopropanol there is obtained isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-4-ethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, m.p. 121°-124° C.,

reactant | isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-ethylvinyl]ureido}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC(=CC(=O)OCC)CC | C18H22ClFN2O5
reactant | sodium | [Na] | Na
solvent | isopropanol | C(C)(C)O | C3H8O
product | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-4-ethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC(=CC1=O)CC)=O | C16H16ClFN2O4
